US09278910B2
Prepared using General Procedure 19. To a stirring solution of methyl 2-((tert-butoxycarbonyl)(4-cyanobenzyl)amino)acetate INT-74 (1.35 g, 4.44 mmol) in DMF (8 mL) was added TEA (1.546 mL, 11.09 mmol) followed by hydroxylamine hydrochloride (0.771 g, 11.1 mmol). After stirring at room temperature for 48 h the reaction mixture was diluted with EA (100 mL) and the washed with brine (2×150 mL). The crude product was purified by chromatography (MeOH/DCM) to afford 1.28 g (85%) of methyl 2-((tert-butoxycarbonyl)(4-(N-hydroxycarbamimidoyl)benzyl)amino)acetate INT-75 as a viscous oil. LCMS-ESI (m/z) calculated for C16H23N3O5: 337; found 338 [M+H]+, tR=1.17 min (Method 10).

reactant | methyl 2-((tert-butoxycarbonyl)(4-cyanobenzyl)amino)acetate | C(C)(C)(C)OC(=O)N(CC(=O)OC)CC1=CC=C(C=C1)C#N | C16H20N2O4
reactant | hydroxylamine hydrochloride | 11.1 mmol, 0.771 g | Cl.NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EA | 100 mL | CC(OCC)=O | C4H8O2
product | methyl 2-((tert-butoxycarbonyl)(4-(N-hydroxycarbamimidoyl)benzyl)amino)acetate | 1.28 g, 85% | C(C)(C)(C)OC(=O)N(CC(=O)OC)CC1=CC=C(C=C1)C(NO)=N | C16H23N3O5
